US07176210B2
Preparation of 1-{4-[3-(4-Chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-yl]-piperazin-1-yl}-ethanone (7A-1)
To a mixture of 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methyl-7-piperazin-1-yl-pyrazolo[1,5-a]pyrimidine, hydrochloride salt (6A-3; 25 mg, 0.049 mmol), Argonaut™ PS-DIEA (63 mg, 0.24 mmol) and diisopropylethylamine (0.020 ml, 0.11 mmol) in methylene chloride (1 ml), was added acetyl chloride (0.005 ml, 0.074 mmol). After stirring 20 minutes, the reaction was filtered, concentrated and then purified on a Biotage™ Flash 12S column using 0–50% ethyl acetate in hexanes as eluant to afford, after trituration from hexanes/methylene chloride, 7A-1 (19 mg, 79%) as a solid: +ESI MS (M+1) 480.3; 1H NMR (400 MHz, CD3OD) δ 7.49–7.34 (m, 6H), 7.23 (d, J=8.7 Hz, 2H), 6.14 (s, 1H), 3.84–3.78 (m, 4H), 3.71–3.61 (m, 4H), 2.57 (s, 3H), 2.10 (s, 3H).

reactant | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methyl-7-piperazin-1-yl-pyrazolo[1,5-a]pyrimidine, hydrochloride salt | 0.049 mmol, 25 mg | Cl.ClC1=CC=C(C=C1)C=1C(=NN2C1N=C(C=C2N2CCNCC2)C)C2=C(C=CC=C2)Cl
reactant | DIEA | 0.24 mmol, 63 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | diisopropylethylamine | 0.11 mmol, 0.020 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 0.074 mmol, 0.005 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-{4-[3-(4-Chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-yl]-piperazin-1-yl}-ethanone | ClC1=CC=C(C=C1)C=1C(=NN2C1N=C(C=C2N2CCN(CC2)C(C)=O)C)C2=C(C=CC=C2)Cl | C25H23Cl2N5O
